US08877759B2
Lithium boranuide (208.9 mg, 9.588 mmol) was added to a stirred solution ethyl 4-[1-(tert-butoxycarbonylamino)-2-fluoro-ethyl]benzoate (1.99 g, 6.392 mmol) in tetrahydrofuran (40 mL) and the reaction warmed to 65° C. for 15 hours. The reaction mixture was cooled to ambient temperature then poured onto crushed ice whilst stirring, 1 M hydrogen chloride solution was added drop wise until no effervescence was observed. The mixture was stirred for 1 hour then saturated aqueous sodium bicarbonate solution was added until the mixture was at pH 8. The aqueous layer was extracted with ethyl acetate (×3) and the combined organic extracts dried over MgSO4, filtered and concentrated in vacuo. Purification by column chromatography (ISCO Companion, 120 g column) loaded in dichloromethane, eluted with 0 to 100% ethyl acetate/petroleum ether. Product fractions were combined and concentrated in vacuo to give tert-butyl N-[2-fluoro-1-[4-(hydroxymethyl)phenyl]ethyl]carbamate as a white solid (1.15 g, 67%). 1H NMR (400.0 MHz, DMSO-d6) δ 1.37 (s, 9H), 4.44-4.49 (m, 4H), 4.80-4.89 (m, 1H), 5.16 (t, 1H), 7.27-7.38 (m, 4H) and 7.65 (d, 1H) ppm; LC/MS m/z 214.0 [M+H]+

reactant | Lithium boranuide | 9.588 mmol, 208.9 mg | [BH4-].[Li+]
reactant | ethyl 4-[1-(tert-butoxycarbonylamino)-2-fluoro-ethyl]benzoate | 6.392 mmol, 1.99 g | C(C)(C)(C)OC(=O)NC(CF)C1=CC=C(C(=O)OCC)C=C1 | C16H22FNO4
reactant | hydrogen chloride | 1 M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | tert-butyl N-[2-fluoro-1-[4-(hydroxymethyl)phenyl]ethyl]carbamate | 1.15 g, 67% | FCC(C1=CC=C(C=C1)CO)NC(OC(C)(C)C)=O | C14H20FNO3
